US05866589
2-Bromo-3-ethoxypyridine
A mixture of 2-bromopyridin-3-ol (3.00 g), ethyl iodide (3.44 ml), anhydrous potassium carbonate (4.28 g) and dry dimethylformamide (34 ml) is stirred under nitrogen at 80°-85° for 2.5 hrs, concentrated to remove solvent, diluted with ethyl acetate (75 ml) and water (40 ml), and the layers are separated. The aqueous phase is extracted with ethyl acetate (75 ml) and the combined organic phase is washed with saline (30 ml), dried over sodium sulfate, and concentrated under reduced pressure to give the title compound, NMR (CDCl3) 7.97, 7.20, 7.12, 4.11 and 1.50δ.

reactant | 2-bromopyridin-3-ol | 3.00 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | ethyl iodide | 3.44 ml | C(C)I | C2H5I
reactant | potassium carbonate | 4.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-3-ethoxypyridine | BrC1=NC=CC=C1OCC | C7H8BrNO
